US05547949
Preparation of 2,4-bis(1,1-dimethylethylamino)-6-(1-piperazinyl) pyrimidine
A mixture containing 10.0 g (38.9 mmoles) of 4-chloro-2,6-bis(1,1-dimethylethylamino)pyrimidine, 13.42 g (155.8 mmoles) of piperazine and 150 ml of N-ethylmorpholine is boiled under reflux under nitrogen for 25 hours, then the solvent and piperazine are distilled off under atmospheric pressure. Water is added to the residue and distilled off until the head temperature reaches 100° C. After cooling down the residue is distributed between 200 ml of chloroform and 30 ml of 10% sodium hydroxide solution. After separation the organic phase is washed 4 times with 50 ml of water each, then dried and evaporated. The residue is purified by chromatography on a silica gel column by using a 9:1 mixture of chloroform and methanol. After recrystallizing the eluted product from hexane, the title compound is obtained in a yield of 7.65 g (64%), m.p.:142°-145° C.

reactant | 4-chloro-2,6-bis(1,1-dimethylethylamino)pyrimidine | 38.9 mmoles, 10.0 g | ClC1=NC(=NC(=C1)NC(C)(C)C)NC(C)(C)C | C12H21ClN4
reactant | piperazine | 155.8 mmoles, 13.42 g | N1CCNCC1 | C4H10N2
solvent | N-ethylmorpholine | 150 ml | C(C)N1CCOCC1 | C6H13NO
product | 2,4-bis(1,1-dimethylethylamino)-6-(1-piperazinyl) pyrimidine | CC(C)(C)NC1=NC(=CC(=N1)NC(C)(C)C)N1CCNCC1 | C16H30N6
